US06465504B1
3,5-Bis(2-hydroxyphenyl)-1-(2,4-difluorophenyl)-1H-[1,2,4]triazole
5.0 g of 2-(2-hydroxyphenyl)benz[e][1,3]oxazin-4-one, 3.9 g of 2,4-difluorophenylhydrazine hydrochloride and 3 ml of triethylamine are boiled under reflux for 2 h in 25 ml of ethanol. The mixture is cooled, poured onto water and extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and concentrated on a rotary evaporator. The residue is crystallized from ethanol. After drying, 3,5-bis(2-hydroxyphenyl)-1-(2,4-difluoro-phenyl)-1H-[1,2,4]triazole remains as colorless crystals of m.p. 144-146C.

reactant | 2-(2-hydroxyphenyl)benz[e][1,3]oxazin-4-one | 5.0 g | OC1=C(C=CC=C1)C=1OC2=C(C(N1)=O)C=CC=C2 | C14H9NO3
reactant | 2,4-difluorophenylhydrazine hydrochloride | 3.9 g | Cl.FC1=C(C=CC(=C1)F)NN
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3,5-Bis(2-hydroxyphenyl)-1-(2,4-difluorophenyl)-1H-[1,2,4]triazole | OC1=C(C=CC=C1)C1=NN(C(=N1)C1=C(C=CC=C1)O)C1=C(C=C(C=C1)F)F | C20H13F2N3O2
